US04775692
To a solution of n-propylmagnesium bromide in THF (1.62N, 149 ml, 242 mmol), anhydrous THF (200 ml) was added and the mixture was cooled to -50° C. After adding hydrated copper acetate (2.42 g, 12.1 mmol), a solution of diethyl isopropylidenemalonate (22 g, 110 mmol) in anhydrous THF (100 ml) was slowly added to the solution at -50° C., and the mixture was stirred at -50° C. for 2 hours. Aqueous hydrogen chloride (1N, 260 ml) was added at room temperature and the mixture was extracted with ethyl acetate (500 ml, 100 ml×3). Aqueous saturated solution of sodium hydrogencarbonate (100 ml) was added to the combined organic layers and filtered. The aqueous layer was separated from the organic layer of the filtrate. The organic layer was washed with brine (300 ml), dried over magnesium sulfate, and concentrated. The residue was distilled under reduced pressure to give ethyl 2-ethoxycarbonyl-3,3-dimethylhexanoate (24.92 g, 102 mmol, 92.7%, b.p.: 85°-87° C./1 mmHg). The structure was identified by the following data.

reactant | n-propylmagnesium bromide | C(CC)[Mg]Br
reactant | diethyl isopropylidenemalonate | 110 mmol, 22 g | C(C)(C)=C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | hydrogen chloride | 1N, 260 ml | Cl | ClH
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 242 mmol, 1.62N, 149 ml | C1CCOC1 | C4H8O
product | ethyl 2-ethoxycarbonyl-3,3-dimethylhexanoate | 102 mmol, 24.92 g, 92.7% | C(C)OC(=O)C(C(=O)OCC)C(CCC)(C)C | C13H24O4
